US08859544B2
(4-Aminophenyl)(1-methoxy-2-methylindolizin-3-yl)methanone
1.93 g (34.46 mmol) of iron and 8.21 ml (143.57 mmol) of glacial acetic acid are added to 2.97 g (9.57 mmol) of (1-methoxy-2-methylindolizin-3-yl)(4-nitrophenyl)methanone in 120 ml of a 2/1 mixture of water and ethanol. The reaction medium is heated at 80° C. for 3 hours. The reaction medium is extracted with ethyl acetate. The organic phase is washed with a saturated aqueous solution of sodium hydrogen carbonate and then with a saturated aqueous solution of sodium chloride, dried over sodium sulphate, and then concentrated under reduced pressure. The residue obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (90/10) mixture. 2.58 g of a yellow solid are obtained.

reactant | acetic acid | 143.57 mmol, 8.21 ml | C(C)(=O)O | C2H4O2
reactant | (1-methoxy-2-methylindolizin-3-yl)(4-nitrophenyl)methanone | 9.57 mmol, 2.97 g | COC=1C(=C(N2C=CC=CC12)C(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C17H14N2O4
reactant | water | O | H2O
catalyst | iron | 34.46 mmol, 1.93 g | [Fe] | Fe
solvent | ethanol | C(C)O | C2H6O
product | (4-Aminophenyl)(1-methoxy-2-methylindolizin-3-yl)methanone | 2.58 g | NC1=CC=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)OC)C | C17H16N2O2
